US07196107B2
ethyl [4-(1-hydroxy-3-{4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}propyl)-2-methylphenoxy]acetate
A mixture of ethyl [2-methyl-4-(3-{4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}propanoyl)phenoxy]acetate (intermediate11, 0.28 g) in tetrahydrofuran (8 ml) and water (8 ml) at 0° C. was treated portion-wise with sodium borohydride (0.043 g) and the mixture was stirred at 0° C. for 1 hour. The solvent was evaporated and the residue partitioned between water and ethyl acetate; the aqueous layer was separated and extracted twice more with ethyl acetate. The combined organic solutions were dried with brine and over magnesium sulfate and concentrated. The product isolated after evaporation of the solvent was further purified by flash column chromatography using cyclohexane:ethyl acetate (3:1) as eluent to give the title compound as a colourless gum.

reactant | ethyl [2-methyl-4-(3-{4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}propanoyl)phenoxy]acetate | 0.28 g | CC1=C(OCC(=O)OCC)C=CC(=C1)C(CCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C25H24F3NO4S
reactant | sodium borohydride | 0.043 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | water | 8 ml | O | H2O
product | ethyl [4-(1-hydroxy-3-{4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}propyl)-2-methylphenoxy]acetate | OC(CCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C1=CC(=C(OCC(=O)OCC)C=C1)C | C25H26F3NO4S
